US05395846
To KH (35%; 1.38 g; 0.012 mole) in THF (20 ml) under N2 and cooled to 0° C. is added 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-one (2 g; 0.012 mole) all at once. The reaction mixture is stirred for 5 min. in an ice bath and 1 hr. at room temperature. To the reaction mixture is then added 4-(benzoxazol-2-yl)benzyl bromide (3.4 g; 0.012 mole) dissolved in THF (60 ml) at a fast drip rate. A bright yellow mixture forms and the mixture is stirred overnight at room temperature. The mixture is next cooled in an ice bath, MeOH added to quench any KH and filtered. The filtercake is washed with THF and evaporated to dryness. The product is purified using a gradient flash chromatography (eluting with 10%-25% ethyl acetate/hexane) to obtain 5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-one (m.p. 159°-160° C.) which is used directly in Step C.

reactant | 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-one | 0.012 mole, 2 g | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | 4-(benzoxazol-2-yl)benzyl bromide | 0.012 mole, 3.4 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
reactant | MeOH | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-one | O1C(=NC2=C1C=CC=C2)C2=CC=C(COC13CC4C(C(CC(C1)C4)C3)=O)C=C2 | C24H23NO3
